US07754755B2
N-[2-(1H-Indol-3-yl)-ethyl]4-pentyl-benzenesulfonamide
To a solution of tryptamine (19.2 mg, 0.12 mmol) in 2 ml CH2Cl2 was added 0.06 mmol of 4-n-butylphenylsulfonyl chloride in CH2Cl2, followed by 16.5 μl of triethylamine. After stirring the reaction for 6 hr at room temperature, the mixture was purified by loading on to a cation exchange resin and the resin was eluted using CH2Cl2. The appropriate fractions were combined and evaporated to give the product. 1H NMR (CDCl3): δ 0.89 (t, 3H), 1.3 (m, 4H), 1.6 (m, 2H), 2.65 (t, 2H), 2.96 (t, 2H), 3.3 (m, 2H), 6.9-7.4 (m, 6H), 7.6 (d, 2H), 8.0 (s, 1H).

reactant | tryptamine | 0.12 mmol, 19.2 mg | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | 4-n-butylphenylsulfonyl chloride | 0.06 mmol | C(CCC)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
reactant | triethylamine | 16.5 μl | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | N-[2-(1H-Indol-3-yl)-ethyl]4-pentyl-benzenesulfonamide | N1C=C(C2=CC=CC=C12)CCNS(=O)(=O)C1=CC=C(C=C1)CCCCC | C21H26N2O2S
